US05998433
a) Synthesis of 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one
To a solution of 0.163 g (1.021 mmol) of 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride, 0.29 g (1.1 mmol) of 3-(3-phenethylphenyl)propionic acid and 0.57 ml (4.1 mmol) of triethylamine in 30 ml of dichloromethane, 0.23 ml (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 1.021 mmol, 0.163 g | Cl.O1C=CC=2CNCCC21
reactant | 3-(3-phenethylphenyl)propionic acid | 1.1 mmol, 0.29 g | C(CC1=CC=CC=C1)C=1C=C(C=CC1)CCC(=O)O | C17H18O2
reactant | triethylamine | 4.1 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.23 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one | O1C=CC=2CN(CCC21)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O | C24H25NO2
